US07375227B2
368B. 4-p-Tolyl-piperidin-4-ol
A mixture of 1-benzyl-4-p-tolyl-piperidin-4-ol (350 mg, 1.243 mmol), and Pd—C 10% (55 mg) in EtOAc (7 mL) is hydrogenated at room temperature and atmospheric pressure for 20 h. The mixture is filtered over Celite, and the filtrate is evaporated to provide the title compound.

reactant | 1-benzyl-4-p-tolyl-piperidin-4-ol | 1.243 mmol, 350 mg | C(C1=CC=CC=C1)N1CCC(CC1)(O)C1=CC=C(C=C1)C | C19H23NO
solvent | EtOAc | 7 mL | CCOC(=O)C | C4H8O2
catalyst | Pd—C | 55 mg | [Pd] | Pd
product | 4-p-Tolyl-piperidin-4-ol | C1(=CC=C(C=C1)C1(CCNCC1)O)C | C12H17NO
